US05371064
Hydrogen peroxide (30%; 66 ml) was added to a suspension of 4-chloro-3-fluoro-2-(methylsulphenyl)benzoic acid (2.5 g) and concentrated sulphuric acid (1.5 ml) in acetic acid. The mixture was heated slowly to 80° C. and stirred and heated at that temperature overnight. It was cooled to room temperature and treated with sodium metabisulphite (45 g). It was evaporated and the residue was treated with water and acidified to pH 1. It was extracted with ethyl acetate, washed with water, dried (MgSO4) and filtered. The filtrate was evaporated to dryness to give 4-chloro-3-fluoro-2-methylsulphonylbenzoic acid (24 g) as an off white solid m.p. 196°-200° C.

reactant | Hydrogen peroxide | 66 ml | OO | H2O2
reactant | 4-chloro-3-fluoro-2-(methylsulphenyl)benzoic acid | 2.5 g | ClC1=C(C(=C(C(=O)O)C=C1)SC)F | C8H6ClFO2S
reactant | sulphuric acid | 1.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium metabisulphite | 45 g | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 4-chloro-3-fluoro-2-methylsulphonylbenzoic acid | 24 g | ClC1=C(C(=C(C(=O)O)C=C1)S(=O)(=O)C)F | C8H6ClFO4S
